US04587256
268 mg of (±)-8-amino-6-fluoro-2,3-dihydrospiro[4H-1-benzopyran-4,5'-thiazolidine]-2',4'-dione were introduced into 3 ml of 50% tetrafluoroboric acid and the mixture was treated dropwise in an ice-bath with a solution of 76 mg of sodium nitrite in 0.3 ml of water. The mixture was subsequently stirred at room temperature for 90 minutes and then excess nitrite was destroyed by the addition of some urea. The solution of the diazonium salt was introduced in one portion into a solution of 12.08 g of copper (II) nitrate in 25 ml of water with vigorous stirring. After the addition of a small spatula tip of copper (I) oxide, vigorous gas evolution occurred. The mixture was stirred at room temperature until the foaming had finished (about 90 minutes). The product was thereupon extracted with three portions of ether, the organic phases were washed four times with water and dried with sodium sulfate. The residue remaining after removal of the solvent by concentration was separated by chromatography on preparative thick-layer plates and the (±)-6-fluoro-8-hydroxy-2,3-dihydrospiro[4H-1-benzopyran-4,5'-thiazolidine]-2',4'-dione was isolated as a non-crystallizable, solid material.

reactant | (±)-8-amino-6-fluoro-2,3-dihydrospiro[4H-1-benzopyran-4,5'-thiazolidine]-2',4'-dione | 268 mg | NC1=CC(=CC2=C1OCCC21C(NC(S1)=O)=O)F | C11H9FN2O3S
reactant | tetrafluoroboric acid | 3 ml | F[B-](F)(F)F.[H+]
reactant | sodium nitrite | 76 mg | N(=O)[O-].[Na+]
solvent | water | 0.3 ml | O | H2O
product | (±)-6-fluoro-8-hydroxy-2,3-dihydrospiro[4H-1-benzopyran-4,5'-thiazolidine]-2',4'-dione | FC=1C=C(C2=C(C1)C1(C(NC(S1)=O)=O)CCO2)O | C11H8FNO4S
